US08304419B2
Step A: ethyl 5-methyl-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylate
A mixture of ethyl (2E)-2-(hydroxyimino)-3-oxobutanoate (8.50 g, 53.41 mmol) and 10% Pd/C (0.42 g) in EtOH (25 mL) and a 1.5 M solution of HCl (40 mL) were stirred under hydrogen (50 psig) for 4 h. The vessel was carefully vented then the mixture was filtered through Celite which was subsequently washed with EtOH. The filtrate was concentrated slightly to remove some of the EtOH but the water bath was kept below 40° C. A 5M solution of aqueous HCl (5 mL) was added to the yellow solution and this was added dropwise to a solution of KOCN (6.50 g, 80.12 mmol) in water (25 mL) at RT. The reaction mixture was stirred at RT for 3 days then cooled to 0° C. After 2 h, the precipitate was filtered and washed with a cold 1:1 mixture of MeOH/water (20 mL) and dried under vacuum to afford 1.70 g (19%) of the title compound as a grey powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.61 (br. s., 1H), 10.14 (br. s., 1H), 4.16 (d, 2H), 2.20 (br. s., 3H), 1.23 (t, 3H). LCMS m/z 171.3 (M+H).

reactant | ethyl (2E)-2-(hydroxyimino)-3-oxobutanoate | 53.41 mmol, 8.50 g | O\N=C(\C(=O)OCC)/C(C)=O | C6H9NO4
reactant | HCl | 40 mL | Cl | ClH
reactant | KOCN | 80.12 mmol, 6.50 g | O([K])C#N
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | water | 25 mL | O | H2O
catalyst | Pd/C | 0.42 g | [Pd] | Pd
product | ethyl 5-methyl-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylate | 1.70 g, 19% | CC1=C(NC(N1)=O)C(=O)OCC | C7H10N2O3
